US06509334B1
(3-Chlorophenyl)-4,4-diethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one
Prepared from 4,4-diethyl-6-iodo-1,4-dihydrobenzo[d][1,3]oxazin-2-one and 3-chlorophenyl boronic acid according to Procedure A. White solid: mp 150-151° C. 1H-NMR (CDCl3) δ8.52 (s, 1H, D2O exchangeable), 7.50 (s, 1H), 7.31-7.44 (m, 4H), 7.16 (d, 1H, J=1.5 Hz), 6.89 (d, 1H, J=8.2 Hz), 2.03 (m, 4H), 0.94 (t, 6H, J=7.4 Hz); MS (EI) m/z 315(M+, 53%). Anal. Calc. For C18H18ClNO2: C, 68.46, H, 5.75, N, 4,44. Found: C, 68.16, H, 5.81, N, 4.32.

reactant | 4,4-diethyl-6-iodo-1,4-dihydrobenzo[d][1,3]oxazin-2-one | C(C)C1(C2=C(NC(O1)=O)C=CC(=C2)I)CC | C12H14INO2
reactant | 3-chlorophenyl boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | (3-Chlorophenyl)-4,4-diethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | ClC=1C=C(C=CC1)N1C(OC(C2=C1C=CC=C2)(CC)CC)=O | C18H18ClNO2
